US06090825
E. 4-[5-(2,4-Difluoro-phenyl)-4-hydroxymethyl-oxazol-2-yl]-piperidine-1-carboxylic acid benzyl ester
To a 0.5 liter round bottom flask fitted with a condenser, nitrogen inlet, and mechanical stirrer is added 30.25 g, 66.3 mmoles of 4-[5-(2,4-Difluoro-phenyl)-4-methoxycarbonyl-oxazol-2-yl]-piperidine-1-carboxylic acid benzyl ester, and a mixture of methanol and ether (4 mL to 200 mL). Lithium borohydride 2.17 g (0.1 mol) is added in three portions and then the mixture is stirred and heated to reflux for 30 minutes. The reaction is allowed to cool and carefully quenched with 400 mL of 0.5 N hydrochloric acid. The resulting mixture is extracted with 3×200 mL of methylene chloride. The organics are combined, washed with brine, dried over magnesium sulfate and concentrated to a thick residue to yield the title compound.

reactant | 4-[5-(2,4-Difluoro-phenyl)-4-methoxycarbonyl-oxazol-2-yl]-piperidine-1-carboxylic acid benzyl ester | 66.3 mmoles, 30.25 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=1OC(=C(N1)C(=O)OC)C1=C(C=C(C=C1)F)F | C24H22F2N2O5
reactant | methanol | CO | CH4O
reactant | Lithium borohydride | 0.1 mol, 2.17 g | [BH4-].[Li+]
solvent | ether | 4 mL to 200 mL | CCOCC | C4H10O
product | 4-[5-(2,4-Difluoro-phenyl)-4-hydroxymethyl-oxazol-2-yl]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=1OC(=C(N1)CO)C1=C(C=C(C=C1)F)F | C23H22F2N2O4
